US07276631B2
Step G: 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-N-methyl-3-phenylcyclohexanamine trifluoroacetic acid salt
To a solution of 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-3-phenylcyclohexanone (10 mg) in methylamine (2.0 M solution in THF, 0.11 mL) at room temperature was added titanium(IV) isopropoxide (0.02 mL) and the resulting solution was heated at 80° C. in a sealed vial for 1.5 h. The solution was cooled to room temperature, 0.1 mL methanol was added followed by sodium borohydride (4.4 mg), and the resulting suspension was stirred at room temperature for 2 h. H2O was added to quench the reaction and the mixture was extracted with dichloromethane 3 times. The combined organic layers were concentrated and residue was purified by preparative HPLC to give the title compound (8 mg, 62% yield). 1H NMR (500 MHz, CD3OD) δ 1.39 (1H, m), 1.56 (1H, m), 1.72 (1H, m), 1.88 (1H, m), 2.14 (1H, m), 2.39 (1H, m), 2.61 (1H, m), 2.70 (3H, d, J=25 Hz), 2.71 (1H, m), 3.44 (1H, d, J=5 Hz), 3.79 (2H, dd, J=10, 60 Hz), 4.49-4.60 (2H, m), 7.21-7.28 (1H, m), 7.33 (1H, t, J=8 Hz), 7.38-7.46 (3H, m), 7.65 (1H, s), 7.72 (1H, s), 7.82 (1H, d, J=10 Hz). HPLC purity (retention time): 95% (2.05 min, method C). MS: 446.49 (MH+).

reactant | 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-3-phenylcyclohexanone | 10 mg | FC(C=1C=C(COCC2(CC(CCC2)=O)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C22H20F6O2
reactant | methanol | 0.1 mL | CO | CH4O
reactant | sodium borohydride | 4.4 mg | [BH4-].[Na+]
reactant | H2O | O | H2O
reactant | methylamine | 2.0 M, 0.11 mL | CN | CH5N
catalyst | titanium(IV) isopropoxide | 0.02 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-N-methyl-3-phenylcyclohexanamine trifluoroacetic acid salt | 8 mg, 62% yield | FC(C(=O)O)(F)F.FC(C=1C=C(COCC2(CC(CCC2)NC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C23H25F6NO.C2HF3O2/c1-30-20-8-5-9-21(13-20,17-6-3-2-4-7-17)15-31-14-16-10-18(22(24,25)26)12-19(11-16)23(27,28)29;3-2(4,5)1(6)7/h2-4,6-7,10-12,20,30H,5,8-9,13-15H2,1H3;(H,6,7)
